US06632811B2
Synthesis of 4-(N′-(Cyclopentylacetyl)-L-alaninyl)amino-1,1-dimethyl-3-isochromanone
Following General Procedure A above using N-(cyclopentylacetyl)-L-alanine and 4-amino-1,1-dimethyl-3-isochromanone, the title compound could be prepared.

reactant | N-(cyclopentylacetyl)-L-alanine | C1(CCCC1)CC(=O)N[C@@H](C)C(=O)O | C10H17NO3
reactant | 4-amino-1,1-dimethyl-3-isochromanone | NC1C(OC(C2=CC=CC=C12)(C)C)=O | C11H13NO2
product | 4-(N′-(Cyclopentylacetyl)-L-alaninyl)amino-1,1-dimethyl-3-isochromanone | C1(CCCC1)CC(=O)N[C@@H](C)C(=O)NC1C(OC(C2=CC=CC=C12)(C)C)=O | C21H28N2O4
